US07176310B1
9. 2-(Bicyclo[2.2.1]hept-2-ylcarbamoylmethoxy)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 2-aminonorbornane (21 μL, 0.18 mmol) as the coupling partner. Concentration (no chromatography) yielded 38 mg (71%) of the titled compound. ESI-MS m/z 385 (MH+), 383 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 2-aminonorbornane | 0.18 mmol, 21 μL | NC1C2CCC(C1)C2 | C7H13N
product | 2-(Bicyclo[2.2.1]hept-2-ylcarbamoylmethoxy)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 38 mg, 71% | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(NC1C2CCC(C1)C2)=O | C20H21FN4O3
